US07638657B2
Preparation of 1-(2′-ethyl-5′-hydroxy-2-propylbiphenyl-4-yl)propan-1-one
413 g (1.33 mol) of 1-(2′-ethyl-5′-methoxy-2-propylbiphenyl-4-yl)propan-1-one and 768 g (6.64 mol) of pyridine hydrochloride are placed in a round-bottomed flask. The mixture is heated at 160°-170° C. for 4 hours with stirring. The reaction medium is allowed to return to 100°-110° C. and 800 ml of water are added. The mixture is cooled to 30° C. and extracted with 1.6 liters of ethyl acetate. After separating by settling, the aqueous phase is extracted with 600 ml of ethyl acetate. The organic phases are combined and washed twice with 800 ml of water. After evaporating under reduced vacuum, 410 g of 1-(2′-ethyl-5′-hydroxy-2-propylbiphenyl-4-yl)propan-1-one are obtained in the form of an oil.

reactant | 1-(2′-ethyl-5′-methoxy-2-propylbiphenyl-4-yl)propan-1-one | 1.33 mol, 413 g | C(C)C1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)C(CC)=O)CCC | C21H26O2
reactant | pyridine hydrochloride | 6.64 mol, 768 g | Cl.N1=CC=CC=C1
solvent | water | 800 ml | O | H2O
product | 1-(2′-ethyl-5′-hydroxy-2-propylbiphenyl-4-yl)propan-1-one | C(C)C1=C(C=C(C=C1)O)C1=C(C=C(C=C1)C(CC)=O)CCC | C20H24O2
